US08445684B2
tert-Butyl 3(R)-[(3-Phenylpropoxy)methyl]pyrrolidine-1-carboxylate
NaH (170 mg, 7.1 mmol, 2.0 equiv.) was added to a solution of 1-(tert-butoxycarbonyl)-3(R)-pyrrolidinylmethanol (500 mg, 2.49 mmol) in anhydrous THF (40 mL) with ice cooling under N2. The solution was stirred for 2 h at room temperature. (3-Bromopropyl)benzene (590 mg, 2.96 mmol, 1.2 equiv.) and n-Bu4NBr (80 mg, 0.25 mmol, 0.10 equiv.) were added, and the mixture was stirred overnight at 25° C. The reaction was then quenched with water. After concentration under vacuum, the solution was extracted with EtOAc. The combined organic layers were dried over Na2SO4 and concentrated in vacuo. The residue was applied onto a silica gel column, which was eluted with EtOAc/petroleum ether 1:10 to afford the product (500 mg, 63%) as a yellowish oil. 1H NMR (CDCl3, 300 MHz) δ 7.33-7.19 (m, 5H), δ 3.55-3.31 (m, 7H), δ 3.11 (dd, 1H, J=10.8, 6.9 Hz), 2.71 (t, 2H) 2.48 (m, 1H), 1.87-2.01 (m, 3H), 1.71-1.64 (m, 1H), 1.48 (s, 9H). LC-MS (ESI) m/z 320 (M+H+).

reactant | NaH | 7.1 mmol, 170 mg, 2.0 equiv. | [H-].[Na+]
reactant | 1-(tert-butoxycarbonyl)-3(R)-pyrrolidinylmethanol | 2.49 mmol, 500 mg | C(C)(C)(C)OC(=O)N1C[C@@H](CC1)CO | C10H19NO3
reactant | (3-Bromopropyl)benzene | 2.96 mmol, 590 mg, 1.2 equiv. | BrCCCC1=CC=CC=C1 | C9H11Br
solvent | THF | 40 mL | C1CCOC1 | C4H8O
catalyst | n-Bu4NBr | 0.25 mmol, 80 mg, 0.10 equiv. | [N+](CCCC)(CCCC)(CCCC)CCCC.[Br-]
product | tert-Butyl 3(R)-[(3-Phenylpropoxy)methyl]pyrrolidine-1-carboxylate | 500 mg, 63% | C1(=CC=CC=C1)CCCOC[C@H]1CN(CC1)C(=O)OC(C)(C)C | C19H29NO3
